US06150358
Step A: 5-(1,2-Dithiolan-3-yl) N-[2-(4-morpholinyl)ethyl]pentanamide
4.5 g of hydroxybenzotriazole, 10.5 g of 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate, 7.8 g of diisopropylethylamine and 3.9 g of 2-morpholino-1-ethylamine are added at room temperature to a solution of 6.2 g of thioctic acid in 180 ml of tetrahydrofuran. After 20 hours, the reaction mixture is concentrated under reduced pressure. The residue is taken up in ethyl acetate, washed and then dried over Na2SO4. Concentration under reduced pressure yields 8.4 g of the expected product.

reactant | hydroxybenzotriazole | 4.5 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 10.5 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 7.8 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-morpholino-1-ethylamine | 3.9 g | O1CCN(CC1)CCN | C6H14N2O
reactant | thioctic acid | 6.2 g | C1CSSC1CCCCC(=O)O | C8H14O2S2
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 5-(1,2-Dithiolan-3-yl) N-[2-(4-morpholinyl)ethyl]pentanamide | 8.4 g | S1SC(CC1)CCCCC(=O)NCCN1CCOCC1 | C14H26N2O2S2
